US04491580
Sodium (1R,4S)-2-azabicyclo[2,1,0]pentan-3-one-2-carboxylate
A mixture of (1R,4S)-2-benzyloxycarbonylmethyl-2-azabicyclo[2,1,0]pentan-3-one (21 mg, 0.091 mmol), 10% Pd/C (10 mg) and sodium bicarbonate (7.6 mg, 0.91 mmol) in tetrahydrofuran (3 ml) water (1 ml) was hydrogenated at 40 psi on the Parr shaker for 1 hr. The mixture was then filtered and the solid residue was washed with deionized water. The combined filtrate and washings were extracted twice with ether (10 ml) and the aqueous phase was concentrated in high vacuum to a volume of 3.5 ml. This solution was applied to a 1/2" disc (total product content on disc 400 μg) which was incubated on a Staph. aureus MB 108 plate at 37° C. for 60 hrs. This results in a 50 mm zone of inhibition.

reactant | (1R,4S)-2-benzyloxycarbonylmethyl-2-azabicyclo[2,1,0]pentan-3-one | 0.091 mmol, 21 mg | C(C1=CC=CC=C1)OC(=O)CN1[C@@H]2C[C@@H]2C1=O | C13H13NO3
reactant | sodium bicarbonate | 0.91 mmol, 7.6 mg | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | Sodium (1R,4S)-2-azabicyclo[2,1,0]pentan-3-one-2-carboxylate | [C@@H]12N(C([C@H]2C1)=O)C(=O)[O-].[Na+] | InChI=1S/C5H5NO3.Na/c7-4-2-1-3(2)6(4)5(8)9;/h2-3H,1H2,(H,8,9);/q;+1/p-1/t2-,3+;/m0./s1
